*
.subckt my_subckt vin vout
R1 vin vout 1k
C1 vout 0 1uF
.ends my_subckt

.subckt my_subckt2 vin vout
X1 vin vout1 my_subckt
X2 vout1 vout my_subckt
.ends my_subckt2

.subckt my_subckt3 vin vout
X1 vin vout1 my_subckt2
.ends my_subckt3

V1 vin 0 1
X1 vin vout my_subckt3
.ac dec 10 1 10k